US07138457B2
Into a two phase mixture of 86 g (0.6 mol) of comercial glycidylmethacrylate containing 200 ppm of MEHQ and 500 ml of water is added 2 ml of concentrated sulfuric acid at ambient temperature. After stirring approximately 18 hours, the mixture appeared as a clear homogenous solution. To the resultant solution is added sufficient sodium sulfate to cause separation of an oil. The 2 phase mixture is extracted sequentially with 5 portions of 150 ml each of chloroform and the combined chloroform extracts are dried over solid sodium sulfate. After filtering the solid sodium sulfate, the solvent is removed by evaporation to give 77 g (80%) of glycerol mono-methacrylate as a clear colorless oil. The monomer can be used without further purification or can be further purified by chromatography to separate trace amounts of glycerol di-methacrylate.

reactant | glycidylmethacrylate | C(C1CO1)OC(C(=C)C)=O | C7H10O3
reactant | MEHQ | COC1=CC=C(C=C1)O | C7H8O2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 500 ml | O | H2O
product | glycerol mono-methacrylate | 77 g, 80% | C(C(=C)C)(=O)OCC(O)CO | C7H12O4
